### PR TITLE
[Merged by Bors] - feat: define gradient of scalar-valued function on a Hilbert space

### PR DESCRIPTION
**Pull request by chenyili0818**
This file describes the transformation of the fderiv to gradient for functions from H to ℝ, where H is a Hilbert (complete inner product) space. This is a substitution for the previous pull request #7011.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by chenyili0818** [comment]
Sorry for the mistake, this is the substitution for 7073

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 1]
```diff
@@ -0,0 +1,472 @@
...
+  have : (∇* (grad gradient')) x = ⟪grad gradient', x⟫ := rfl
+  rw [this]
+  apply toDual_symm_apply.symm
+
+/-
+### Gradient and its `ε - δ` definition
+-/
+variable {gradf gradg: E}
+
+theorem HasFDeriv_Convergence (h: HasFDerivAt f (f' x) x) :
```
Comment (mo271) [inline Mathlib/Analysis/Calculus/Gradient.lean:93]:
```suggestion
theorem HasFDeriv_Convergence (h : HasFDerivAt f (f' x) x) :
```

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 2]
```diff
@@ -0,0 +1,472 @@
...
+* theorems connecting `HasGradnAt`, `ContinuousAt` and `ε - δ` convergence.
+* theorems showing that for the differiential function,
+  the gradient (if exists) at local minima is zero.
+-/
+
+open InnerProductSpace
+noncomputable section
+
+variable {E : Type*} [NormedAddCommGroup E] [InnerProductSpace ℝ E] [CompleteSpace E]
+variable {f: E → ℝ} {f': E → (E →L[ℝ] ℝ)} {x y : E} {s : Set E}
```
Comment (mo271) [inline Mathlib/Analysis/Calculus/Gradient.lean:44]:
```suggestion
variable {f : E → ℝ} {f': E → (E →L[ℝ] ℝ)} {x y : E} {s : Set E}
```

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 3]
```diff
@@ -0,0 +1,472 @@
...
+-/
+/-- Translate `g` in `Hilbert Space E` to its dual ℝ-ContinuousLinearMap : `⟨ g , ⬝ ⟩`-/
+local notation "∇*" gradient  => (toDualMap ℝ _) gradient
+/-- Translate the ℝ-ContinuousLinearMap on `Hilbert Space E` to
+  its dual element on E by Frechet-Riesz Represent Theorem -/
+def grad : (E →L[ℝ] ℝ) → E
+  | gradient => ((toDual ℝ E).symm gradient)
+
+theorem grad_equiv :
+  ∀ x y :E, inner (grad (f' x)) y = f' x y := by
```
Comment (mo271) [inline Mathlib/Analysis/Calculus/Gradient.lean:59]:
```suggestion
  ∀ (x y : E), inner (grad (f' x)) y = f' x y := by
```

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 4]
```diff
@@ -0,0 +1,472 @@
...
+    which means `f y - f x = ⟨ gradf , y - x ⟩ + o (y - x)` -/
+def HasGradnAt (f : E → ℝ) (grad : E) (x : E) := HasFDerivAt f (∇* grad) x
+
+/-- The gradient of a function `f` from ℝ to ℝ at a point `x` is `grad`
+    defined to be `f` Has `FDeriv` at `x` with the dual ContinuousLinearMap `⟨ gead , ⬝ ⟩`,
+    which means `f y - f x = ⟨ gradf , y - x ⟩ + o (y - x)` -/
+def HasGradoneAt (f : ℝ → ℝ) (grad : ℝ) (x : ℝ) := HasFDerivAt f (∇* grad) x
+
+/-- The dual of the dual of an element in `(EuclideanSpace ℝ n) →L[ℝ] ℝ` is itself -/
+theorem toDual_of_toDual_eq_self (gradient': E →L[ℝ] ℝ): gradient' = ∇* (grad gradient'):= by
```
Comment (mo271) [inline Mathlib/Analysis/Calculus/Gradient.lean:81]:
```suggestion
theorem toDual_of_toDual_eq_self (gradient' : E →L[ℝ] ℝ): gradient' = ∇* (grad gradient') := by
```

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 5]
```diff
@@ -0,0 +1,472 @@
...
+  apply dpos
+  intro x' x1mem
+  have : ‖x - x'‖ ≤ δ:= by
+    rw [Metric.ball, Set.mem_setOf, dist_comm, dist_eq_norm] at x1mem
+    exact LT.lt.le x1mem
+  rw [Set.mem_setOf, norm_sub_rev x']
+  apply h x' this
+
+/- The equivalent statement of `HasFDerivAt` in the `ε - δ` language-/
+theorem HasFDeriv_iff_Convergence_Point {gradient' : (E →L[ℝ] ℝ)}:
```
Comment (mo271) [inline Mathlib/Analysis/Calculus/Gradient.lean:133]:
```suggestion
theorem HasFDeriv_iff_Convergence_Point {gradient' : (E →L[ℝ] ℝ)} :
```

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 6]
```diff
@@ -0,0 +1,472 @@
...
+  ∀ ε > (0 : ℝ), ∃ δ > (0 : ℝ), ∀ (x' : E),
+  ‖x - x'‖ ≤ δ → ‖f x' - f x - ⟪gradf, (x' - x)⟫‖ ≤ ε * ‖x - x'‖ := by
+  rw [HasGradnAt, HasFDeriv_iff_Convergence_Point]
+  rfl
+
+/- The following theorems are about the translation of `HasFDerivAt` and `HasGradnAt`-/
+theorem HasGradn_HasFDeriv  (h: HasGradnAt f gradient x):
+  HasFDerivAt f (∇* gradient) x := h
+
+theorem HasFDeriv_HasGradn (h: HasFDerivAt f gradient' x): HasGradnAt f (grad gradient') x := by
```
Comment (mo271) [inline Mathlib/Analysis/Calculus/Gradient.lean:158]:
```suggestion
theorem HasFDeriv_HasGradn (h: HasFDerivAt f gradient' x) : HasGradnAt f (grad gradient') x := by
```

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 7]
```diff
@@ -0,0 +1,472 @@
...
+  rw [HasGradnAt, HasFDeriv_iff_Convergence_Point]
+  rw [HasFDeriv_iff_Convergence_Point] at h
+  intro e epos
+  rcases (h e epos) with ⟨d, dpos, h⟩
+  use d; constructor; exact dpos
+  intro x' xle; specialize h x' xle
+  rw [← toDual_of_toDual_eq_self]
+  exact h
+
+theorem HasFDeriv_HasGradn' (h: HasFDerivAt f (∇* gradient) x):
```
Comment (mo271) [inline Mathlib/Analysis/Calculus/Gradient.lean:168]:
```suggestion
theorem HasFDeriv_HasGradn' (h : HasFDerivAt f (∇* gradient) x) :
```

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 8]
```diff
@@ -0,0 +1,472 @@
...
+   HasGradnAt f gradient x := by rw [HasGradnAt]; exact h
+
+theorem HasGradn_HasFDeriv' (h: HasGradnAt f (grad gradient') x): HasFDerivAt f gradient' x := by
```
Comment (mo271) [inline Mathlib/Analysis/Calculus/Gradient.lean:171]:
```suggestion
theorem HasGradn_HasFDeriv' (h : HasGradnAt f (grad gradient') x) : HasFDerivAt f gradient' x := by
```

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 9]
```diff
@@ -0,0 +1,472 @@
...
+    have l4: f x * ⟪gradg, y⟫ + g x * ⟪gradf, y⟫ = ⟪f x • gradg, y⟫ + ⟪g x • gradf, y⟫ := by
+      rw [real_inner_smul_left gradg y (f x), real_inner_smul_left gradf y (g x)]
+    have l5: ⟪f x • gradg, y⟫ + ⟪g x • gradf, y⟫ = ⟪f x • gradg + g x • gradf, y⟫:= by
+      rw [inner_add_left]
+    rw [l₁, l₂, l3, l4, l5]
+    rfl
+  rw [HasGradnAt, ← h₂]
+  apply h₁
+
+theorem toDual.unique {f₁ g₁: E} (h: (∇* f₁) = (∇* g₁)): f₁ = g₁ := by
```
Comment (mo271) [inline Mathlib/Analysis/Calculus/Gradient.lean:317]:
```suggestion
theorem toDual.unique {f₁ g₁ : E} (h : (∇* f₁) = (∇* g₁)) : f₁ = g₁ := by
```

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 10]
```diff
@@ -0,0 +1,472 @@
...
+  have h₁: ∀ x : E , (∇* f₁) x = (∇* g₁) x :=
```
Comment (mo271) [inline Mathlib/Analysis/Calculus/Gradient.lean:318]:
```suggestion
  have h₁ : ∀ x : E , (∇* f₁) x = (∇* g₁) x :=
```

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 11]
```diff
@@ -0,0 +1,472 @@
...
+  have : (∇* f₁) (f₁ - g₁) = ⟪f₁, f₁ - g₁⟫ := rfl
+  rw [this] at h₁
+  have : (∇* g₁) (f₁ - g₁) = ⟪g₁, f₁ - g₁⟫ := rfl
+  rw [this] at h₁
+  have : ⟪f₁, f₁ - g₁⟫ - ⟪g₁, f₁ - g₁⟫ = 0 := by
+    rw [h₁, sub_self]
+  rw [← inner_sub_left, inner_self_eq_zero, sub_eq_zero] at this
+  exact this
+
+theorem HasGradnAt.unique (hf : HasGradnAt f gradf x) (hg : HasGradnAt f gradg x):
```
Comment (mo271) [inline Mathlib/Analysis/Calculus/Gradient.lean:330]:
```suggestion
theorem HasGradnAt.unique (hf : HasGradnAt f gradf x) (hg : HasGradnAt f gradg x) :
```

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 12]
```diff
@@ -0,0 +1,472 @@
...
+  gradf = gradg := by
+  rw [HasGradnAt] at hf
+  rw [HasGradnAt] at hg
+  have : (∇* gradf) = (∇* gradg):= by
+    apply HasFDerivAt.unique hf hg
+  apply toDual.unique this
+
+theorem HasGradnAt.congr (hf : HasGradnAt f gradf x) (hg : HasGradnAt g gradg x) (equal: f = g):
```
Comment (mo271) [inline Mathlib/Analysis/Calculus/Gradient.lean:338]:
```suggestion
theorem HasGradnAt.congr (hf : HasGradnAt f gradf x) (hg : HasGradnAt g gradg x) (equal: f = g) :
```

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 13]
```diff
@@ -0,0 +1,472 @@
...
+  · intro x' _
+    rw [sub_self, inner_zero_left, sub_self, norm_zero]
+    apply mul_nonneg (LT.lt.le epos) (norm_nonneg (x - x'))
+
+/-
+  The following theorems concerns the relationship of
+  `ε - δ` convergence, gradient and continuity.
+-/
+
+theorem HasGradnAt.continuousAt (hf: HasGradnAt f gradf x) : ContinuousAt f x:= by
```
Comment (mo271) [inline Mathlib/Analysis/Calculus/Gradient.lean:357]:
```suggestion
theorem HasGradnAt.continuousAt (hf : HasGradnAt f gradf x) : ContinuousAt f x := by
```

**Comment by hrmacbeth** [comment]
Hi @chenyili0818, thanks for your contribution.  I'm going to ask you to start a discussion topic on Zulip (in the "mathlib4" or "PR reviews" channel) about your reasons for wanting a definition of gradient in this form -- is it really too awkward to work with the Frechet derivative in your intended use case?  If we add this definition to mathlib, we will need to duplicate a lot of the theory of the Frechet derivative (as you have already done in this PR), so it's a lot of overhead and we should be sure that it's worth while.

Here, I will make a first review of the PR assuming that after the discussion everyone agrees that having this definition is worth while.

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 14]
```diff
@@ -0,0 +1,472 @@
+/-
+Copyright (c) 2023 Ziyu Wang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yu Penghao(PKU), Ziyu Wang(PKU), Chenyi Li(PKU), Cao Zhipeng(HUST)
```
Comment (hrmacbeth) [inline Mathlib/Analysis/Calculus/Gradient.lean:4]: No affiliations

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 15]
```diff
@@ -0,0 +1,472 @@
...
+  ∀ x y :E, inner (grad (f' x)) y = f' x y := by
+    intro x y; apply toDual_symm_apply
+
+/-- The gradient of a function `f` from Hilbert Space E to ℝ at a point `x`
+    is defined to be the dual of `fderiv` of `f` at `x` -/
+def gradn (f : E → ℝ) (x : E) : E := grad (fderiv ℝ f x)
+
+/-- The gradient of a function `f` from ℝ to ℝ at a point `x`
+    is defined to be the dual of `fderiv` of `f` at `x` -/
+def grad_one (f : ℝ → ℝ) (x : ℝ) : ℝ := (toDual ℝ ℝ).symm (fderiv ℝ f x)
```
Comment (hrmacbeth) [inline Mathlib/Analysis/Calculus/Gradient.lean:68]: Not needed, this is `deriv`

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 16]
```diff
@@ -0,0 +1,472 @@
...
+    which means `f y - f x = ⟨ gradf , y - x ⟩ + o (y - x)` -/
+def HasGradoneAt (f : ℝ → ℝ) (grad : ℝ) (x : ℝ) := HasFDerivAt f (∇* grad) x
+
+/-- The dual of the dual of an element in `(EuclideanSpace ℝ n) →L[ℝ] ℝ` is itself -/
+theorem toDual_of_toDual_eq_self (gradient': E →L[ℝ] ℝ): gradient' = ∇* (grad gradient'):= by
+  apply ContinuousLinearMap.ext_iff.mpr
+  intro x
+  have : (∇* (grad gradient')) x = ⟪grad gradient', x⟫ := rfl
+  rw [this]
+  apply toDual_symm_apply.symm
```
Comment (hrmacbeth) [inline Mathlib/Analysis/Calculus/Gradient.lean:86]:
```suggestion
  ((toDual ℝ E).apply_symm_apply gradient').symm
```

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 17]
```diff
@@ -0,0 +1,472 @@
...
+def grad : (E →L[ℝ] ℝ) → E
+  | gradient => ((toDual ℝ E).symm gradient)
+
+theorem grad_equiv :
+  ∀ x y :E, inner (grad (f' x)) y = f' x y := by
+    intro x y; apply toDual_symm_apply
+
+/-- The gradient of a function `f` from Hilbert Space E to ℝ at a point `x`
+    is defined to be the dual of `fderiv` of `f` at `x` -/
+def gradn (f : E → ℝ) (x : E) : E := grad (fderiv ℝ f x)
```
Comment (hrmacbeth) [inline Mathlib/Analysis/Calculus/Gradient.lean:64]: We abbreviate only when the the full-length wording is very long.  Here, it's not so long, so I would write in full: `Gradient`.  Same for `HasGradientAt`.

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 18]
```diff
@@ -0,0 +1,472 @@
...
+
+theorem HasGradn_HasFDeriv' (h: HasGradnAt f (grad gradient') x): HasFDerivAt f gradient' x := by
+  rw [HasFDeriv_iff_Convergence_Point]
+  rw [HasGradnAt, HasFDeriv_iff_Convergence_Point ] at h
+  intro e epos
+  rcases (h e epos) with ⟨d, dpos, h⟩
+  use d; constructor; exact dpos
+  intro x' xle; specialize h x' xle
+  rw [← toDual_of_toDual_eq_self] at h
+  exact h
```
Comment (hrmacbeth) [inline Mathlib/Analysis/Calculus/Gradient.lean:179]:
```suggestion
  rw [HasGradnAt] at h
  convert h
  exact ((toDual ℝ E).apply_symm_apply gradient').symm
```

File: Mathlib/Analysis/Calculus/Gradient.lean (hunk 8 above)
Comment (hrmacbeth) [reply Mathlib/Analysis/Calculus/Gradient.lean:171]: Rename to use projection notation: `HasGradientAt.hasFDerivAt`.  Similar throughout.  (If you are new to Lean, you may need to study how projection notation works.)

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 19]
```diff
@@ -0,0 +1,472 @@
...
+    apply HasFDerivAt.const_smul
+    apply HasGradn_HasFDeriv hf
+  have h₂: c • f' = ∇* (c • gradf) := by
+    apply ContinuousLinearMap.ext_iff.mpr; intro x
+    have l₁ : (c • f') x = c * (f' x):= by rfl
+    have l₂ : (∇* (c • gradf)) x = ⟪c • gradf, x⟫ := by rfl
+    have l₃ : ⟪(c • gradf), x⟫ =  c * ⟪gradf, x⟫ := real_inner_smul_left gradf x c
+    rw[l₁, l₂, l₃]; rfl
+  rw[HasGradnAt, ← h₂]
+  exact h₁
```
Comment (hrmacbeth) [inline Mathlib/Analysis/Calculus/Gradient.lean:199]: These should all follow immediately from the corresponding proofs for `HasFDerivAt`.  Example:
```suggestion
  rw [HasGradnAt] at hf ⊢
  convert hf.const_smul c
  simp
```

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 20]
```diff
@@ -0,0 +1,472 @@
...
+  intro ε epos
+  use (1 : ℝ); constructor;
+  · exact Real.zero_lt_one
+  · intro x' _
+    rw [sub_self, inner_zero_left, sub_self, norm_zero]
+    apply mul_nonneg (LT.lt.le epos) (norm_nonneg (x - x'))
+
+/-
+  The following theorems concerns the relationship of
+  `ε - δ` convergence, gradient and continuity.
```
Comment (hrmacbeth) [inline Mathlib/Analysis/Calculus/Gradient.lean:354]: Make these exact copies of similar results for `HasFDerivAt` (and use filter notation), and prove them directly from those results.

File: Mathlib/Analysis/Calculus/Gradient.lean [hunk 21]
```diff
@@ -0,0 +1,472 @@
...
+/-- The dual of the dual of an element in `(EuclideanSpace ℝ n) →L[ℝ] ℝ` is itself -/
+theorem toDual_of_toDual_eq_self (gradient': E →L[ℝ] ℝ): gradient' = ∇* (grad gradient'):= by
+  apply ContinuousLinearMap.ext_iff.mpr
+  intro x
+  have : (∇* (grad gradient')) x = ⟪grad gradient', x⟫ := rfl
+  rw [this]
+  apply toDual_symm_apply.symm
+
+/-
+### Gradient and its `ε - δ` definition
```
Comment (hrmacbeth) [inline Mathlib/Analysis/Calculus/Gradient.lean:89]: In mathlib we state these kinds of result using filters, not `ε - δ`.  In principle you do this here, but I think it's better just to delete them all, because (as you will see from my review below) every result you prove about `HasGradnAt` is an immediate consequence of the corresponding result about `HasFDerivAt`, without needing to unfold definitions further.

**Comment by TropicalFatFish** [comment]
Hello, thanks for reviewer's reply. We have create [a zulip chat to discuss the introduction of `Gradient` in Mathlib.](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/define.20gradient.20of.20scalar-valued.20function.20on.20a.20Hilbert/near/390212910). Also we will address the problems above.

**Comment by chenyili0818** [comment]
We rewrite our defitions about HasGradientAtFilter, HasGradientWithinAt and HasGradientAt according to fderiv. We also add some basic calculation properties about add, minus, negative, compose, mul.  Any suggestions are welcome. The necessity of this defition is discussed on zulip https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/define.20gradient.20of.20scalar-valued.20function.20on.20a.20Hilbert.20space/near/390214016

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,385 @@
...
+
+theorem toDual_of_toDual_gradient (gradient : F) :
+  gradient = (toDual 𝕜 F).symm ((toDual 𝕜 F) gradient) :=
+   Eq.symm (LinearIsometryEquiv.symm_apply_apply (toDual 𝕜 F) gradient)
+
+section GradientUniqueness
+
+variable {gradf gradg : F}
+
+theorem toDual_unique {f₁ g₁ : F} (h : ((toDual 𝕜 F) f₁) = ((toDual 𝕜 F) g₁)) : f₁ = g₁ := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:127]: `toDual 𝕜 F` is an equiv, so it is injective and sujective by general properties: the proof of the theorem should be a one-liner but, more importantly, you shouldn't need the theorem at all!

Comment (chenyili0818) [reply Mathlib/Analysis/Calculus/Gradient/Basic.lean:127]: Thank you for your advice. We totally agree that there is no need to have this theorem. So we update our proof.

**Comment by sgouezel** [comment]
When you have dealt with a comment, can you click on "Resolve conversation", so that what remains to be done is easier to follow? Don't resolve the conversation only if you expect that the conversation on this specific point will continue.

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 23]
```diff
@@ -0,0 +1,370 @@
...
+`f x' = f x + ⟨ f', x' - x ⟩ + o (x' - x)` where `x'` converges to `x`. -/
+def Gradient (f : F → 𝕜) (x : F) : F := (toDual 𝕜 F).symm (fderiv 𝕜 f x)
+
+local notation "∇" => Gradient
+
+variable {s : Set F} {L : Filter F}
+
+theorem HasGradientWithinAt_iff_HasFDerivWithinAt {s : Set F} :
+  HasGradientWithinAt f f' s x ↔ HasFDerivWithinAt f (toDual 𝕜 F f') s x := by
+  constructor <;> (intro h; exact h)
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:83]:
```suggestion
  HasGradientWithinAt f f' s x ↔ HasFDerivWithinAt f (toDual 𝕜 F f') s x := Iff.rfl
```

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,370 @@
...
+
+theorem HasGradientWithinAt.hasFDerivWithinAt {s : Set F} (h : HasGradientWithinAt f f' s x) :
+  HasFDerivWithinAt f (toDual 𝕜 F f') s x := HasGradientWithinAt_iff_HasFDerivWithinAt.mp h
+
+theorem HasFDerivWithinAt.hasGradientWithinAt {s : Set F}
+  (h : HasFDerivWithinAt f (toDual 𝕜 F f') s x) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:89]: This theorem should rather read: if `HasFDerivWithinAt f u s x` then `HasGradientWithinAt f ((toDual 𝕜 F).symm u) s x`. And maybe add the iff version also.
Edit: I see that the iff version is below. Then I would just drop the current lemma (which is quite unnatural, if needed one can resort to the iff version) and only keep the natural version. And probably move the other versions very close to here, as they have exactly the same flavor.

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 25]
```diff
@@ -0,0 +1,370 @@
...
+
+theorem HasGradientAt_iff_HasFDerivAt :
+  HasGradientAt f f' x ↔ HasFDerivAt f (toDual 𝕜 F f') x := by
+  constructor <;> (intro h; exact h)
+
+theorem HasGradientAt.hasFDerivAt (h : HasGradientAt f f' x) :
+  HasFDerivAt f (toDual 𝕜 F f') x := HasGradientAt_iff_HasFDerivAt.mp h
+
+theorem HasFDerivAt.hasGradientAt (h : HasFDerivAt f (toDual 𝕜 F f') x) :
+  HasGradientAt f f' x := HasGradientAt_iff_HasFDerivAt.mpr h
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:100]: same thing as above.

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 26]
```diff
@@ -0,0 +1,370 @@
...
+  have : (toDual 𝕜 F).symm 0 = 0 := by simp only [map_zero]
+  rw [← fderiv_zero_of_not_differentiableAt h] at this
+  exact this
+
+local notation "⟪" x ", " y "⟫" => @inner 𝕜 _ _ x y
+
+theorem toDual_eq_inner (y x : F) : ((toDual 𝕜 F) y) x = ⟪y, x⟫ := rfl
+
+theorem toDual_of_toDual_frechet (frechet : F →L[𝕜] 𝕜) :
+  frechet = (toDual 𝕜 F) ((toDual 𝕜 F).symm frechet) := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:112]: the second and next lines in theorem statements should be indented by 4 spaces. But here you should just remove this theorem: it is just a particular case of `LinearIsometryEquiv.apply_symm_apply` (as you can find by trying `exact?` to see if your theorem can be proved directly).

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 27]
```diff
@@ -0,0 +1,370 @@
...
+  HasGradientAt f f' x := HasGradientAt_iff_HasFDerivAt.mpr h
+
+theorem Gradient_zero_of_not_differentiableAt (h : ¬DifferentiableAt 𝕜 f x) : ∇ f x = 0 := by
+  have : (toDual 𝕜 F).symm 0 = 0 := by simp only [map_zero]
+  rw [← fderiv_zero_of_not_differentiableAt h] at this
+  exact this
+
+local notation "⟪" x ", " y "⟫" => @inner 𝕜 _ _ x y
+
+theorem toDual_eq_inner (y x : F) : ((toDual 𝕜 F) y) x = ⟪y, x⟫ := rfl
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:109]: This is the definition of `toDual`, so probably it already exists (and probably it is given very close to the definition). Can you find it? If so, you should remove your statement. If not, you should move it just after the definition of `toDual`.

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 28]
```diff
@@ -0,0 +1,370 @@
...
+  frechet = (toDual 𝕜 F) ((toDual 𝕜 F).symm frechet) := by
+  apply ContinuousLinearMap.ext_iff.mpr
+  intro x
+  have : ((toDual 𝕜 F) ((toDual 𝕜 F).symm frechet)) x = ⟪(toDual 𝕜 F).symm frechet, x⟫ := rfl
+  rw [this]
+  apply toDual_symm_apply.symm
+
+theorem toDual_of_toDual_gradient (gradient : F) :
+  gradient = (toDual 𝕜 F).symm ((toDual 𝕜 F) gradient) :=
+   Eq.symm (LinearIsometryEquiv.symm_apply_apply (toDual 𝕜 F) gradient)
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:121]: Same thing, remove.

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 29]
```diff
@@ -0,0 +1,370 @@
...
+
+variable {gradf gradg : F}
+
+theorem HasGradientAt.unique (hf : HasGradientAt f gradf x) (hg : HasGradientAt f gradg x) :
+  gradf = gradg := (toDual 𝕜 F).injective ((hf.hasFDerivAt).unique hg.hasFDerivAt)
+
+end GradientUniqueness
+
+theorem HasGradientWithinAt_iff_HasFDerivWithinAt' {s : Set F} {frechet : F →L[𝕜] 𝕜} :
+  HasGradientWithinAt f ((toDual 𝕜 F).symm frechet) s x ↔ HasFDerivWithinAt f frechet s x := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:133]:
```suggestion
    HasGradientWithinAt f ((toDual 𝕜 F).symm frechet) s x ↔ HasFDerivWithinAt f frechet s x := by
```

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 30]
```diff
@@ -0,0 +1,370 @@
...
+  constructor
+  · intro h
+    rw [toDual_of_toDual_frechet frechet]
+    exact h.hasFDerivWithinAt
+  · intro h
+    rw [toDual_of_toDual_frechet frechet] at h
+    exact h.hasGradientWithinAt
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:140]:
```suggestion
  conv_rhs => rw [← (toDual 𝕜 F).apply_symm_apply frechet]
```

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 31]
```diff
@@ -0,0 +1,370 @@
...
+
+theorem HasGradientAt.hasFDerivAt' {frechet : F →L[𝕜] 𝕜}
+  (h : HasGradientAt f ((toDual 𝕜 F).symm frechet) x) :
+    HasFDerivAt f frechet x := by
+      rw [toDual_of_toDual_frechet frechet]
+      exact h.hasFDerivAt
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:146]:
```suggestion
    (h : HasGradientAt f ((toDual 𝕜 F).symm frechet) x) :
    HasFDerivAt f frechet x := by
  rw [toDual_of_toDual_frechet frechet]
  exact h.hasFDerivAt
```
Your indentation is wrong. The rule is: subsequent lines in a theorem statement indented by 4 spaces, proofs indented by 2 spaces (plus additional spaces in subproofs). Same thing in the rest of the file.

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 32]
```diff
@@ -0,0 +1,370 @@
...
+
+theorem HasFDerivAt.hasGradientAt' {frechet : F →L[𝕜] 𝕜} (h : HasFDerivAt f frechet x) :
+  HasGradientAt f ((toDual 𝕜 F).symm frechet) x := by
+    rw [toDual_of_toDual_frechet frechet] at h
+    exact h.hasGradientAt
+
+theorem HasGradientAt_iff_HasFDerivAt' {frechet : F →L[𝕜] 𝕜} :
+  HasGradientAt f ((toDual 𝕜 F).symm frechet) x ↔ HasFDerivAt f frechet x :=
+    ⟨ fun h ↦ h.hasFDerivAt', fun h ↦ h.hasGradientAt' ⟩
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:155]:
```suggestion
    ⟨fun h ↦ h.hasFDerivAt', fun h ↦ h.hasGradientAt'⟩
```

**Review by sgouezel — COMMENTED** [review]
I have given a style review on the beginning of the first file. It would probably speed up the review process if you cut the PR in two, with only the first file in the first PR (but of course all the style comments apply to all files!). Don't worry, it's completely normal that your first PR takes some time to get ironed out.

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean (hunk 31 above)
Comment (TropicalFatFish) [reply Mathlib/Analysis/Calculus/Gradient/Basic.lean:146]: Thanks, we will revise the second file in this rule!

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 33]
```diff
@@ -0,0 +1,321 @@
...
+theorem Mul_one_eq_SterRingEnd (g' : 𝕜) : ContinuousLinearMap.smulRight (1 : 𝕜 →L[𝕜] 𝕜)
+    (starRingEnd 𝕜 g') = (toDual 𝕜 𝕜) g' := by
+  refine Iff.mpr ContinuousLinearMap.ext_iff ?_
+  simp; intro v; rw [toDual_apply, IsROrC.inner_apply, mul_comm]
+
+theorem SterRingEnd_eq_Mul_one (g' : 𝕜) : ContinuousLinearMap.smulRight (1 : 𝕜 →L[𝕜] 𝕜)
+    g' = (toDual 𝕜 𝕜) (starRingEnd 𝕜 g') := by
+  refine Iff.mpr ContinuousLinearMap.ext_iff ?_
+  simp; intro; rw [toDual_apply, IsROrC.inner_apply, mul_comm]
+  rw [RingHomCompTriple.comp_apply, RingHom.id_apply]
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:151]: All these lemmas are not specifically about gradients, and should be moved to the right place if you really need them (the first two are probably not useful as they can just be proved by simp).

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 34]
```diff
@@ -0,0 +1,321 @@
...
+theorem HasDerivAtFilter.hasGradientAtFilter (h : HasDerivAtFilter g g' u L') :
+    HasGradientAtFilter g (starRingEnd 𝕜 g') u L' := by
+  rw [HasGradientAtFilter, ← SterRingEnd_eq_Mul_one]; exact h
+
+theorem HasGradientAt.hasDerivAt (h : HasGradientAt g g' u) :
+    HasDerivAt g (starRingEnd 𝕜 g') u := by
+  rw [HasGradientAt_iff_HasFDerivAt, hasFDerivAt_iff_hasDerivAt, toDual_eq_StarRingEnd] at h
+  exact h
+
+theorem HasGradientAt.hasDerivAt' {g : ℝ → ℝ} {g' u: ℝ} (h :HasGradientAt g g' u) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:166]:
```suggestion
theorem HasGradientAt.hasDerivAt' {g : ℝ → ℝ} {g' u : ℝ} (h : HasGradientAt g g' u) :
```
Same thing below.

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 35]
```diff
@@ -0,0 +1,321 @@
...
+theorem HasDerivAt.hasGradientAt (h : HasDerivAt g g' u) :
+    HasGradientAt g (starRingEnd 𝕜 g') u := by
+  rw [HasGradientAt_iff_HasFDerivAt, hasFDerivAt_iff_hasDerivAt, StarRingEnd_eq_toDual]
+  exact h
+
+theorem HasDerivAt.hasGradientAt' {g : ℝ → ℝ} {g' u: ℝ} (h :HasDerivAt g g' u) :
+    HasGradientAt g g' u := h.hasGradientAt
+
+theorem gradient_deriv : ∇ g u = starRingEnd 𝕜 (deriv g u) := by
+  by_cases h: DifferentiableAt 𝕜 g u
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:178]: You shouldn't need to distinguish between the two cases, as `gradient` has been defined precisely so that the equality holds.

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 36]
```diff
@@ -0,0 +1,321 @@
...
+
+theorem DifferentiableOn.hasGradientAt (h : DifferentiableOn 𝕜 f s) (hs : s ∈ 𝓝 x) :
+    HasGradientAt f (∇ f x) x := (h.hasFDerivAt hs).hasGradientAt
+
+theorem HasGradientAt.gradient (h : HasGradientAt f f' x) : ∇ f x = f' :=
+  h.differentiableAt.hasGradientAt.unique h
+
+theorem gradient_eq {f' : F → F} (h : ∀ x, HasGradientAt f (f' x) x) : ∇ f = f' :=
+  funext fun x => (h x).gradient
+
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:135]: Can you open a section here, named `OneDimension` or something like that?

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 37]
```diff
@@ -0,0 +1,321 @@
...
+theorem gradient_deriv' {g : ℝ → ℝ} {u: ℝ} : ∇ g u = deriv g u := gradient_deriv
+
+open Filter
+
+/-- If a function f has a derivative f' at x, a rescaled version of f around x converges to f',
+i.e., `n (f (x + (1/n) v) - f x)` converges to `f' v`. More generally, if `c n` tends to infinity
+and `c n * d n` tends to `v`, then `c n * (f (x + d n) - f x)` tends to `< f', v >`. This lemma
+expresses this fact, for functions having a derivative within a set. Its specific formulation is
+useful for tangent cone related discussions. -/
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:192]: The docstring does not really match the statement, as it doesn't talk about gradients.

Do you really need this lemma? Otherwise, I would just drop it as it is pretty specific and was introduced for the derivative only as a device to prove another result.

**Review by sgouezel — COMMENTED** [review]
I have only looked at the first file. It's beginning to look very good, thanks! Could you remove the second file from the PR, and then hopefully we can get the PR in quickly?

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean (hunk 35 above)
Comment (chenyili0818) [reply Mathlib/Analysis/Calculus/Gradient/Basic.lean:178]: Thank you for your advice. I think we have the need to distinguish whether it is differentiable or not here. The same as the defition of deriv or fderiv, the definition of gradient does not contain the differentiablity. For the convience of prove, I think it is intuitive to think consider the cases.

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean (hunk 37 above)
Comment (chenyili0818) [reply Mathlib/Analysis/Calculus/Gradient/Basic.lean:192]: Thank you for your advice! It seems that this theorem actually should not belong to this file. We think it is useful, but it just need not to place here. So we decide to delete it here and add at the place where we need the theorem.

**Comment by chenyili0818** [comment]
Thank you for your crucial advice. I modify the first file Basic.lean and delete the second file Calculation.lean. Later I will open another PR to discuss about it. Hope we can soon merge the PR.

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 38]
```diff
@@ -0,0 +1,320 @@
...
+variable {f : F → 𝕜} {f' x : F}
+
+/-- A function `f` has the gradient `f'` as derivative along the filter `L` if
+  `f x' = f x + ⟨f', x' - x⟩ + o (x' - x)` when `x'` converges along the filter `L`.-/
+def HasGradientAtFilter (f : F → 𝕜) (f' x : F) (L : Filter F) :=
+  HasFDerivAtFilter f (toDual 𝕜 F f') x L
+
+/-- `f` has the gradient `f'` at the point `x` within the subset `s` if
+  `f x' = f x + ⟨f', x' - x⟩ + o (x' - x)` where `x'` converges to `x` inside `s`.-/
+def HasGradientWithinAt (f : F → 𝕜) (f' : F) (s : Set F) (x : F):=
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:57]:
```suggestion
def HasGradientWithinAt (f : F → 𝕜) (f' : F) (s : Set F) (x : F) :=
```

**Comment by chenyili0818** [comment]
Very sorry for my personal mistake, I push the wrong version of my file. So there may be some misleading.

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 39]
```diff
@@ -0,0 +1,311 @@
...
+    (starRingEnd 𝕜 g') = (toDual 𝕜 𝕜) g' := by
+  refine Iff.mpr ContinuousLinearMap.ext_iff ?_
+  simp; intro v; rw [toDual_apply, IsROrC.inner_apply, mul_comm]
+
+theorem SterRingEnd_eq_Mul_one (g' : 𝕜) : ContinuousLinearMap.smulRight (1 : 𝕜 →L[𝕜] 𝕜)
+    g' = (toDual 𝕜 𝕜) (starRingEnd 𝕜 g') := by
+  refine Iff.mpr ContinuousLinearMap.ext_iff ?_
+  simp; intro; rw [toDual_apply, IsROrC.inner_apply, mul_comm]
+  rw [RingHomCompTriple.comp_apply, RingHom.id_apply]
+
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:151]: These statements don't mention the gradient. Could you move them to a more suitable file?

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean (hunk 36 above)
Comment (sgouezel) [reply Mathlib/Analysis/Calculus/Gradient/Basic.lean:136]: I don't think you have opened the section at the right place. It should probably be before the `variable` line, as all theorems talking about `g` will be one-dimensional theorems.

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 40]
```diff
@@ -0,0 +1,311 @@
...
+theorem hasGradientWithinAt_congr_set' {s t : Set F} (y : F) (h : s =ᶠ[𝓝[{y}ᶜ] x] t) :
+    HasGradientWithinAt f f' s x ↔ HasGradientWithinAt f f' t x := hasFDerivWithinAt_congr_set' y h
+
+theorem hasGradientWithinAt_congr_set {s t : Set F} (h : s =ᶠ[𝓝 x] t) :
+    HasGradientWithinAt f f' s x ↔ HasGradientWithinAt f f' t x := hasFDerivWithinAt_congr_set h
+
+theorem hasGradientAt_iff_isLittleO_nhds_zero : HasGradientAt f f' x ↔
+    (fun h => f (x + h) - f x - ⟪f' , h⟫)
+    =o[𝓝 0] fun h => h := hasFDerivAt_iff_isLittleO_nhds_zero
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:225]:
```suggestion
    (fun h => f (x + h) - f x - ⟪f' , h⟫) =o[𝓝 0] fun h => h :=
  hasFDerivAt_iff_isLittleO_nhds_zero
```
If you can avoid breaking meaningful formulas in the middle, it's much better.

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 41]
```diff
@@ -0,0 +1,311 @@
...
+
+theorem HasGradientWithinAt.continuousWithinAt (h : HasGradientWithinAt f f' s x) :
+    ContinuousWithinAt f s x := by apply HasGradientAtFilter.tendsto_nhds inf_le_left h
+
+theorem HasGradientAt.continuousAt (h : HasGradientAt f f' x) : ContinuousAt f x :=
+  HasGradientAtFilter.tendsto_nhds le_rfl h
+
+protected theorem HasGradientAt.continuousOn {f' : F → F}
+    (hderiv : ∀ x ∈ s, HasGradientAt f (f' x) x) :
+  ContinuousOn f s := fun x hx => (hderiv x hx).continuousAt.continuousWithinAt
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:309]:
```suggestion
    ContinuousOn f s := fun x hx => (hderiv x hx).continuousAt.continuousWithinAt
```

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 42]
```diff
@@ -0,0 +1,311 @@
...
+
+section Continuous
+
+/-! ### Continuity of a function admitting a gradient -/
+
+nonrec theorem HasGradientAtFilter.tendsto_nhds (hL : L ≤ 𝓝 x) (h : HasGradientAtFilter f f' x L) :
+    Tendsto f L (𝓝 (f x)) := h.tendsto_nhds hL
+
+theorem HasGradientWithinAt.continuousWithinAt (h : HasGradientWithinAt f f' s x) :
+    ContinuousWithinAt f s x := by apply HasGradientAtFilter.tendsto_nhds inf_le_left h
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:302]:
```suggestion
    ContinuousWithinAt f s x := HasGradientAtFilter.tendsto_nhds inf_le_left h
```

File: Mathlib/Analysis/Calculus/Gradient/Basic.lean [hunk 43]
```diff
@@ -0,0 +1,323 @@
...
+    HasFDerivAt f frechet x := by
+  rw [← (toDual 𝕜 F).apply_symm_apply frechet]
+  exact HasGradientAt_iff_HasFDerivAt.mp h
+
+theorem HasFDerivAt.hasGradientAt {frechet : F →L[𝕜] 𝕜} (h : HasFDerivAt f frechet x) :
+    HasGradientAt f ((toDual 𝕜 F).symm frechet) x := by
+  rw [← (toDual 𝕜 F).apply_symm_apply frechet] at h
+  exact HasGradientAt_iff_HasFDerivAt.mpr h
+
+theorem Gradient_zero_of_not_differentiableAt (h : ¬DifferentiableAt 𝕜 f x) : ∇ f x = 0 := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Gradient/Basic.lean:91]:
```suggestion
theorem gradient_eq_zero_of_not_differentiableAt (h : ¬DifferentiableAt 𝕜 f x) : ∇ f x = 0 := by
```

**Review by sgouezel — COMMENTED** [review]
It's almost perfect, thanks!

**Comment by chenyili0818** [comment]
Thank you very much for your advice

**Comment by sgouezel** [comment]
bors r+
Thanks, and congrats for your first PR!

**Comment by chenyili0818** [comment]
Sorry I may wonder how to fix this fail, thank you!

**Comment by sgouezel** [comment]
Can you merge master and fix the build?

**Comment by chenyili0818** [comment]
Sorry but it seems that I don't know what to do now and can you please teach me more detailed information about solving this problem. Thank you again for your help to this PR!

**Comment by chenyili0818** [comment]
I think I have fixed the problem.

**Comment by chenyili0818** [comment]
Hello, can you help me to merge this PR? Thank you!

**Comment by negiizhao** [comment]
I committed some missed APIs, style changes, and golfs. feel free to revert if you don't want these changes.

**Comment by sgouezel** [comment]
If you are happy with everything, you just need to reply "bors merge" to this message, and that should be it!

**Comment by chenyili0818** [comment]
bors merge

**Comment by chenyili0818** [comment]
> If you are happy with everything, you just need to reply "bors merge" to this message, and that should be it!

bors merge

**Comment by chenyili0818** [comment]
> If you are happy with everything, you just need to reply "bors merge" to this message, and that should be it!

bors merge

**Comment by chenyili0818** [comment]
> If you are happy with everything, you just need to reply "bors merge" to this message, and that should be it!

bors merge

**Comment by chenyili0818** [comment]
It seems that there is a permission problem. Ihave no permission for merger the PR. I am satisfied with the code now. Could you bother to tell the system to merge the PR? Thank you very much.
@sgouezel

**Comment by sgouezel** [comment]
bors d+
Can you try again?

**Comment by chenyili0818** [comment]
bors merge
